M1 (net12 net13 VSS VSS) nmos4
M0 (net13 net12 VSS VSS) nmos4
L1 (net15 net13) inductor
L0 (net16 net12) inductor
R1 (VOUT2 net15) resistor
R0 (VOUT1 net16) resistor
C3 (VCONT2 VSS) capacitor
C2 (VCONT2 net13) capacitor
C1 (VCONT1 VSS) capacitor
? Missing component
